### PR TITLE
docs: split_simps and case over fun/primrec

### PR DESCRIPTION
**Pull request by lsf37**
Document that and why we should prefer `case` over `primrec`/`fun` for non-recursive definitions with pattern matching.

### CODE REVIEW

**Comment by lsf37** [comment]
This is not strictly speaking syntax style only, but I think it still fits in the main style guide as definition style.

**Comment by lsf37** [comment]
Looks like I need to tweak the docs ROOT file to get the Lib dependency in.

File: docs/Style.thy [hunk 1]
```diff
@@ -248,6 +249,38 @@ text \<open>
...
 
 
+section \<open>Fun, primrec, or case? case!\<close>
+
+text \<open>
+  When defining a non-recursive function that uses pattern matching, there are multiple options:
+  @{command fun}, @{command primrec}, and @{text case}. @{text case} initially seems like the least
+  powerful of these, but combined with the @{attribute split_simps} attribute, it is the option that
+  provides the highest degree of proof automation. @{command fun} and @{command primrec} provide
+  simp rule for each of the pattern cases, but when a closed term appears in the proof, there is no
```
Comment (Xaphiosis) [inline docs/Style.thy:259]: *a* simp rule

File: docs/Style.thy [hunk 2]
```diff
@@ -248,6 +249,38 @@ text \<open>
...
+definition some_f :: "nat \<Rightarrow> nat" where
+  "some_f x \<equiv> case x of 0 \<Rightarrow> 1 | Suc n \<Rightarrow> n+2"
+
+lemmas some_f_simps[simp] = some_f_def[split_simps nat.split]
+
+(* Pattern simplified automatically: *)
+lemma "some_f 0 = 1"
+  by simp
+
+(* But automated case split still available after unfolding: *)
```
Comment (Xaphiosis) [inline docs/Style.thy:279]: *is* still available

File: docs/Style.thy [hunk 3]
```diff
@@ -248,6 +249,38 @@ text \<open>
...
+  @{command fun}, @{command primrec}, and @{text case}. @{text case} initially seems like the least
+  powerful of these, but combined with the @{attribute split_simps} attribute, it is the option that
+  provides the highest degree of proof automation. @{command fun} and @{command primrec} provide
+  simp rule for each of the pattern cases, but when a closed term appears in the proof, there is no
+  way to automatically perform a case distinction -- you need to do a manual @{method cases} or
+  @{method case_tac} invocation. @{text case} does provide automatic splitting via split rules, and
+  @{attribute split_simps} adds the missing simp rules.
+
+  So the recommended pattern is to use @{text case} in the definition and directly after, via
+  attribute, add the simp rules to the global simp set as @{command fun}/@{command primrec} would
```
Comment (Xaphiosis) [inline docs/Style.thy:265]: Sentence is backwards, confusing. Suggest something like:
"The recommended pattern is to use @{text case} in the definition and supply the simp rules directly after it, adding them to the global simp set as ... would do."

**Review by michaelmcinerney — APPROVED** [review]
If Raf's comments can be addressed, this looks good, and is a nice addition to the docs

**Comment by lsf37** [comment]
Fixed up Raf's comments and added the dependency. Tests should now pass.

**Review by Xaphiosis — APPROVED** [review]

**Review by corlewis — APPROVED** [review]
Thanks for the documentation, this looks like a really useful pattern that I hadn't consciously seen before.
